Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([CH:2]=[CH:3][c:4]1[c:5]([CH2:6][CH3:7])[cH:8][c:9]([C:10]([F:11])([F:12])[F:13])[cH:14][c:15]1[CH2:16][CH3:17])=[O:18].[CH3:19][C@@H:20]([NH2:21])[c:22]1[cH:23][c:24]([F:25])[c:26]([NH:27][S:28]([CH3:29])(=[O:30])=[O:31])[c:32]([F:33])[cH:34]1>>[C:1]([CH:2]=[CH:3][c:4]1[c:5]([CH2:6][CH3:7])[cH:8][c:9]([C:10]([F:11])([F:12])[F:13])[cH:14][c:15]1[CH2:16][CH3:17])(=[O:18])[NH:21][C@H:20]([CH3:19])[c:22]1[cH:23][c:24]([F:25])[c:26]([NH:27][S:28]([CH3:29])(=[O:30])=[O:31])[c:32]([F:33])[cH:34]1,[OH:101][C:1]([CH:2]=[CH:3][c:4]1[c:5]([CH2:6][CH3:7])[cH:8][c:9]([C:10]([F:11])([F:12])[F:13])[cH:14][c:15]1[CH2:16][CH3:17])=[O:18].[CH3:19][C@@H:20]([NH2:21])[c:22]1[cH:23][c:24]([F:25])[c:26]([NH:27][S:28]([CH3:29])(=[O:30])=[O:31])[c:32]([F:33])[cH:34]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]=[CH:3][c:4]1[c:5]([CH2:6][CH3:7])[cH:8][c:9]([C:10]([F:11])([F:12])[F:13])[cH:14][c:15]1[CH2:16][CH3:17])(=[O:18])[NH:21][C@H:20]([CH3:19])[c:22]1[cH:23][c:24]([F:25])[c:26]([NH:27][S:28]([CH3:29])(=[O:30])=[O:31])[c:32]([F:33])[cH:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (21, 1), ([1, 18], 18), (303, 21.1), ([21.1, 21], 21), (18, [18, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[CH2:3][C:4]#[N:5].[CH3:6][c:7]1[cH:8][cH:9][c:10]([CH2:11][NH2:12])[cH:13][cH:14]1>>[C:1](=[O:2])([CH2:3][C:4]#[N:5])[NH:12][CH2:11][c:10]1[cH:9][cH:8][c:7]([CH3:6])[cH:14][cH:13]1,[CH3:6][c:7]1[cH:8][cH:9][c:10]([CH2:11][NH2:12])[cH:13][cH:14]1.CC[O:101][C:1](=[O:2])[CH2:3][C:4]#[N:5]>>[C:1](=[O:2])([CH2:3][C:4]#[N:5])[NH:12][CH2:11][c:10]1[cH:9][cH:8][c:7]([CH3:6])[cH:14][cH:13]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(12, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][O:14][CH3:15])[c:16]([O:17][CH2:18][CH2:19][O:20][CH3:21])[c:22]12.[CH:23]#[C:24][c:25]1[cH:26][cH:27][cH:28][c:29]([NH2:30])[cH:31]1>>[c:1]1([NH:30][c:29]2[cH:28][cH:27][cH:26][c:25]([C:24]#[CH:23])[cH:31]2)[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][O:14][CH3:15])[c:16]([O:17][CH2:18][CH2:19][O:20][CH3:21])[c:22]12,[Cl:101][c:1]1[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][O:14][CH3:15])[c:16]([O:17][CH2:18][CH2:19][O:20][CH3:21])[c:22]12.[CH:23]#[C:24][c:25]1[cH:26][cH:27][cH:28][c:29]([NH2:30])[cH:31]1>>[c:1]1([NH:30][c:29]2[cH:28][cH:27][cH:26][c:25]([C:24]#[CH:23])[cH:31]2)[c:2]([C:3]#[N:4])[cH:5][n:6][c:7]2[cH:8][cH:9][c:10]([O:11][CH2:12][CH2:13][O:14][CH3:15])[c:16]([O:17][CH2:18][CH2:19][O:20][CH3:21])[c:22]12,SNAr(ortho),"[(30, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[n:7][n:8]([CH2:9][C:10]([O:11][CH2:12][CH3:13])=[O:14])[c:15]2[CH3:16])[cH:17][cH:18][c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1.[CH3:25][CH2:26][NH2:27]>>[CH2:1]([c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[n:7][n:8]([CH2:9][C:10]([O:11][CH2:12][CH3:13])=[O:14])[c:15]2[CH3:16])[cH:17][cH:18][c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1)[NH:27][CH2:26][CH3:25],[O:101]=[CH:1][c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[n:7][n:8]([CH2:9][C:10]([O:11][CH2:12][CH3:13])=[O:14])[c:15]2[CH3:16])[cH:17][cH:18][c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1.[CH3:25][CH2:26][NH2:27].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[c:3](-[c:4]2[c:5]([CH3:6])[n:7][n:8]([CH2:9][C:10]([O:11][CH2:12][CH3:13])=[O:14])[c:15]2[CH3:16])[cH:17][cH:18][c:19]([C:20]([F:21])([F:22])[F:23])[cH:24]1)[NH:27][CH2:26][CH3:25],reductive_amination,"[(27, 1), ([1, 101], 301), (101, 27.1), ([27.1, 27], 27), (27, [27, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 27], 27)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
